US05380734
(C) 2-[[[6-(phenylamino)-3-pyridinyl]methyl]thio]ethylamine
Following the procedure given in part C of Example 3, the title compound was prepared from 6-phenylamino-3-pyridinemethanol and 2-aminoethanethiol hydrochloride.

reactant | 6-phenylamino-3-pyridinemethanol | C1(=CC=CC=C1)NC1=CC=C(C=N1)CO | C12H12N2O
reactant | 2-aminoethanethiol hydrochloride | Cl.NCCS
product | 2-[[[6-(phenylamino)-3-pyridinyl]methyl]thio]ethylamine | C1(=CC=CC=C1)NC1=CC=C(C=N1)CSCCN | C14H17N3S
